US05753595
The reaction was repeated with 2.3 grams (10.5 mmole) of 7-amino-2,4-dichlorobenzothiazole, 1.2 grams (17 mmole) of sodium thiomethoxide, and 25 mL of N,N-dimethylformamide as reagents. After the reaction mixture had been heated for two hours at 60° C. the 0.8 grams from the previous reaction was added, and the reaction mixture was heated for an additional three hours. The reaction mixture was cooled and poured into 300 mL of cold aqueous sodium bicarbonate solution. To this was then added 10 grams of solid lithium chloride. The reaction mixture was extracted with three 100 mL portions of diethyl ether. The combined organic extracts were washed with an aqueous saturated sodium chloride solution. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding 2.0 grams of 7-amino-2-methylthio-4-chlorobenzothiazole. The NMR spectrum was consistent with the proposed structure.

reactant | 7-amino-2,4-dichlorobenzothiazole | 10.5 mmole, 2.3 grams | NC1=CC=C(C=2N=C(SC21)Cl)Cl | C7H4Cl2N2S
reactant | sodium thiomethoxide | 17 mmole, 1.2 grams | C[S-].[Na+]
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 7-amino-2-methylthio-4-chlorobenzothiazole | 2.0 grams | NC1=CC=C(C=2N=C(SC21)SC)Cl | C8H7ClN2S2
